US09315467B2
Part D. A solution of 2-chloro-4-(4-isopropyl-phenyl)-pyridine (110 mg, 0.48 mmol) in acetonitrile-water (1 mL/0.5 mL) is treated with 3-carboethoxybenzeneboronic acid (186 mg, 0.96 mmol), sodium carbonate (153 mg, 1.44 mmol) and tetrakis(triphenylphosphine)palladium (cat. amount). The mixture is heated to reflux for 12 h., then cooled and partitioned between water and ethyl acetate. The organic phase is washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue is separated by column chromatography to afford ethyl 3-[4-(4-isopropyl-phenyl)-pyridin-2-yl]-benzoate (116 mg, 70%).

reactant | 2-chloro-4-(4-isopropyl-phenyl)-pyridine | 0.48 mmol, 110 mg | ClC1=NC=CC(=C1)C1=CC=C(C=C1)C(C)C | C14H14ClN
reactant | 3-carboethoxybenzeneboronic acid | 0.96 mmol, 186 mg | C(=O)(OCC)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | sodium carbonate | 1.44 mmol, 153 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile water | 1 mL | C(C)#N.O
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-[4-(4-isopropyl-phenyl)-pyridin-2-yl]-benzoate | 116 mg, 70% | C(C)(C)C1=CC=C(C=C1)C1=CC(=NC=C1)C=1C=C(C(=O)OCC)C=CC1 | C23H23NO2
